US07964645B2
Preparation of rac-N-[(2-Chloro-9H-thioxanthen-9-ylcarbamoyl)-methyl]-3-phenyl-propionamide
Prepared in analogy to example 1.1 from rac-2-chloro-9H-thioxanthen-9-ylamine (CA [51065-24-8]) and (3-phenyl-propionylamino)-acetic acid (CA [56613-60-6]).

reactant | rac-2-chloro-9H-thioxanthen-9-ylamine | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)N | C13H10ClNS
reactant | (3-phenyl-propionylamino)-acetic acid | C1(=CC=CC=C1)CCC(=O)NCC(=O)O | C11H13NO3
product | rac-N-[(2-Chloro-9H-thioxanthen-9-ylcarbamoyl)-methyl]-3-phenyl-propionamide | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)NC(=O)CNC(CCC1=CC=CC=C1)=O | C24H21ClN2O2S
